US05656626
8-Chloro-3-methoxy-2,5-dioxo-4-vinyl-2,5-dihydro-1H-benz[b]azepine
8-Chloro-4-iodo-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine (0.21 g) was suspended in toluene (5 mL) and trans-benzyl(chloro)bis(triphenylphosphine)palladium(II) (45 mg) was added, followed by tributylvinyltin (0.23 mL). The resulting mixture was stirred at reflux for 17 hours, cooled to room temperature, poured into saturated aqueous ethylenediaminetetraacetic acid (10 mL), and extracted with tetrahydrofuran:ether (1:1). The combined extracts were dried and evaporated to yield a yellow powder. Chromatography, with chloroform as the eluent, yielded the title compound as a white powder (80 mg); mp 212°-214° C. (dec); NMR: 11.44 (s,1), 7.55 (m,1), 7.30 (m,2), 6.69 (dd,1, J=17.7, 11.6), 5.90 (dd,1, J=17.7, 1.8), 5.52 (dd,1, J=11.5, 1.8), 3.8 (s,3). Analysis for C13H10ClNO3.0.2 H2O; Calculated: C, 58.42; H, 3.92; N, 5.24: Found: C, 58.48; H, 3.87; N, 5.06.

reactant | 8-Chloro-4-iodo-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.21 g | ClC=1C=CC2=C(NC(C(=C(C2=O)I)OC)=O)C1 | C11H7ClINO3
reactant | tributylvinyltin | 0.23 mL | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | ethylenediaminetetraacetic acid | 10 mL | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | trans-benzyl(chloro)bis(triphenylphosphine)palladium(II) | 45 mg | [CH2-]C1=CC=CC=C1.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd+]
product | 8-Chloro-3-methoxy-2,5-dioxo-4-vinyl-2,5-dihydro-1H-benz[b]azepine | 80 mg | ClC=1C=CC2=C(NC(C(=C(C2=O)C=C)OC)=O)C1 | C13H10ClNO3
